US07301022B2
N-(4-(6-(2-(((S)-1-Isobutylpiperidin-2-yl)methylamino)-6-(trifluoromethyl)-pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
The title compound was prepared from (S)-2-aminomethyl-N-Boc-piperidine (AstaTech) and 4-(6-(2-chloro-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)-benzo[d]thiazol-2-amine, Example 1(b), analogous to the procedures described for Example 3(a-d). MS (ESI, pos. ion.) m/z: 600 (M+1).

reactant | (S)-2-aminomethyl-N-Boc-piperidine | NC[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 4-(6-(2-chloro-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)-benzo[d]thiazol-2-amine | ClC1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N)C(F)(F)F | C17H9ClF3N5OS
product | N-(4-(6-(2-(((S)-1-Isobutylpiperidin-2-yl)methylamino)-6-(trifluoromethyl)-pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | C(C(C)C)N1[C@@H](CCCC1)CNC1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)C(F)(F)F | C29H32F3N7O2S
